data/mechanism_extracts/Angew/10.1002_anie.202219166_sup_1.json
{"doi": "10.1002_anie.202219166_sup_1", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical reaction of 1,4-dicyanobenzene with aryl iodides and alkenes (e.g., styrenes) via radical intermediates generated under Zn anode / RVC cathode conditions in CH3CN with BnNMe3Cl electrolyte.", "mechanism_family": ["radical_cathodic", "sacrificial_anode", "direct_SET"], "electrochemical_role": "Cathodic reduction generates aryl radical from aryl iodide (and/or radical anion of 1,4-dicyanobenzene); Zn serves as sacrificial anode", "key_intermediates": [{"name": "phenyl radical from iodobenzene 2aa", "smiles": "[c]1ccccc1", "role": "reactive"}, {"name": "radical anion of 1,4-dicyanobenzene", "smiles": null, "role": "transient"}, {"name": "benzyl/alkyl C-radical adduct after radical addition to alkene", "smiles": null, "role": "reactive"}, {"name": "DMPO-phenyl spin adduct (nitroxide)", "smiles": "O=[N+]([O-])C1(C)CCC(c2ccccc2)N1", "role": "transient"}], "electron_flow": "Cathode reduces aryl iodide (assisted by mediator/radical anion of 1,4-dicyanobenzene) to generate an aryl (phenyl) radical, which adds to the alkene; the Zn anode is oxidized as the sacrificial counter-electrode.", "rate_determining_step": null, "probe_reagents": [{"name": "(1-(2-phenylcyclopropyl)vinyl)benzene (8)", "smiles": "C(=C)(c1ccccc1)C1CC1c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened product 9 isolated in 56%, consistent with radical addition followed by cyclopropane ring opening"}, {"name": "DMPO", "smiles": "O=[N+]1([O-])CCCC1(C)C", "purpose": "radical_trap", "observation": "EPR spectrum of DMPO adduct observed (g = 2.0072–2.0073, A_N = 14.40 G, A_H = 20.90 G); HRMS m/z 190.12202 matches DMPO–phenyl adduct C12H16NO (calcd 190.12264), supporting phenyl radical"}], "evidence_types_used": ["radical_clock", "EPR", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Radical clock with phenylcyclopropyl vinyl substrate gives ring-opened diene product, confirming a carbon-centered radical intermediate. EPR/DMPO trapping with and without added 4-methylstyrene gives the same signal, and HRMS identifies the trapped species as a phenyl radical derived from iodobenzene."}
